US05618563
A uniform mixture of DMS and bupivacaine was formed by combining DMS dissolved in 95% ethanol with bupivacaine dissolved in 95% ethanol. The solution was air-dried under the hood at room temperature until the ethanol evaporated and left behind a well-dispersed mixture of dry crystalline DMS and bupivacaine. The crystalline mixture was pulverized under mortar and pestle and combined with copolymer. The rest of the procedures followed those described for CHP PLAMs. All DMS/bupivacaine PLAMs were synthesized using large bore Teflon® tubing.

reactant | DMS | CSC | C2H6S
reactant | bupivacaine | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
solvent | ethanol | C(C)O | C2H6O
product | DMS bupivacaine | CSC.CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C | InChI=1S/C18H28N2O.C2H6S/c1-4-5-12-20-13-7-6-11-16(20)18(21)19-17-14(2)9-8-10-15(17)3;1-3-2/h8-10,16H,4-7,11-13H2,1-3H3,(H,19,21);1-2H3
